US05883102
(d) 2-(2-Azidoethyl)benzaldehyde ethylene acetal
A solution of 2-(2-(4-methylphenylsulphonyloxy)ethyl)benzaldehyde ethylene acetal (1.43 g, 4.10 mmol) and sodium azide (0.53 g, 8.2 mmol) in DMSO (20 ml) was stirred for 16 h, diluted with water, extracted three times with ether, washed with brine, dried over sodium sulphate and evaporated to afford the product as a yellow oil (0.86 g), MS (+EI) 190 [(M-NH2)+], 1H NMR (d6 -DMSO) 7.53-7.25 (4H, m), 5.92 (1H, s), 4.19-3.95 (4H, m), 3.53 (2H, t, J7.2 Hz), 2.98 (2H, t, J7.2 Hz).

reactant | 2-(2-(4-methylphenylsulphonyloxy)ethyl)benzaldehyde ethylene acetal | 4.10 mmol, 1.43 g | C1COC(C2=C(C=CC=C2)CCOS(=O)(=O)C2=CC=C(C=C2)C)O1 | C18H20O5S
reactant | sodium azide | 8.2 mmol, 0.53 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(2-Azidoethyl)benzaldehyde ethylene acetal | 0.86 g | C1COC(C2=C(C=CC=C2)CCN=[N+]=[N-])O1 | C11H13N3O2
